US07351857B2
To 2-(5-hydroxyindan-2-yl)isoindole-1,3-dione (31 g; 0.11 mol) dissolved in anhydrous DMF (400 mL) is added 1,4-diazabicyclo[2.2.2]-octane (62 g; 0.55 mol) followed by dimethylaminothiocarbamoyl chloride (68 g; 0.55 mol) and the solution was stirred at RT for 16 h. The reaction is poured over ice-water (1 L) and stirred for 18 h. The precipitate was filtered, washed with H2O and dried under vacuo to afford 41.6 g (100%) of dimethylthiocarbamic acid O-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)indan-5-yl] ester as a beige solid.

reactant | 2-(5-hydroxyindan-2-yl)isoindole-1,3-dione | 0.11 mol, 31 g | OC=1C=C2CC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C17H13NO3
reactant | 1,4-diazabicyclo[2.2.2]-octane | 0.55 mol, 62 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylaminothiocarbamoyl chloride | 0.55 mol, 68 g | CN(C)NC(=S)Cl | C3H7ClN2S
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | dimethylthiocarbamic acid O-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)indan-5-yl] ester | 41.6 g, 100% | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)OC(N(C)C)=S | C20H18N2O3S
